US06313132B1
17.2 (R)-N,N-Diisopropyl-3-[2-benzyloxy 5-(5-carboxypent-1-enyl)phenyl]-3-phenylpropanamine
To a slurry of 4-carboxybutyl triphenylphosphonium bromide (4.1 g, 9.31 mmol) in THF (25 mL) at −10° C. under nitrogen atmosphere was added potassium tert-butoxide (2.1 g, 18.62 mmol). The mixture turned orange and after 10 minutes stirring, (R)-N,N-diisopropyl-3-(2-benzyloxy-5-formylphenyl)-3-phenylpropanamine (2 g, 4.65 mmol) in THF (10 mL) was added. After 4 hours of stirring, hydrochloric acid (1M) and diethyl ether were added and the layers were separated. The aqueous layer was extracted with ethyl acetate. The combined organic layers were dried (MgSO4) and the solvent was evaporated. The residue was chromatographed on silica (ethyl acetate-triethylamine 90:10 followed by methanol) to afford 3 g containing traces of triphenylphosphine. The product was used in the next step without further purification.

reactant | 4-carboxybutyl triphenylphosphonium bromide | 9.31 mmol, 4.1 g | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 18.62 mmol, 2.1 g | CC(C)([O-])C.[K+]
reactant | (R)-N,N-diisopropyl-3-(2-benzyloxy-5-formylphenyl)-3-phenylpropanamine | 4.65 mmol, 2 g | C(C)(C)N(CC[C@H](C1=CC=CC=C1)C1=C(C=CC(=C1)C=O)OCC1=CC=CC=C1)C(C)C | C29H35NO2
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (R)-N,N-Diisopropyl-3-[2-benzyloxy 5-(5-carboxypent-1-enyl)phenyl]-3-phenylpropanamine | C(C)(C)N(CC[C@H](C1=CC=CC=C1)C1=C(C=CC(=C1)C=CCCCC(=O)O)OCC1=CC=CC=C1)C(C)C | C34H43NO3
